US08420695B2
2-[(4-acetylphenyl)amino]-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide (50 mg, 0.116 mmol) was taken up in THF (1 mL) and cooled to 0° C. Methylmagnesium chloride (0.136 mL, 0.407 mmol) was added and stirring continued at 0° C. for 2.5 hours. After this time, additional THF (1 mL) was added to aid solubility, the mixture was allowed to warm to room temperature and stirring continued for 2.5 hours. Saturated NH4Cl was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by MPLC (0-10% MeOH—CHCl3) followed by MPLC (12-100% EtAOc-hexanes) gave 5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-2-{[4-(1-hydroxy-1-methylethyl)phenyl]amino}thiophene-3-carboxamide as a brown solid.

reactant | 2-[(4-acetylphenyl)amino]-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide | 0.116 mmol, 50 mg | C(C)(=O)C1=CC=C(C=C1)NC=1SC(=CC1C(=O)N)C1=C(C=C(C=C1F)C(C)(C)O)F | C22H20F2N2O3S
reactant | Methylmagnesium chloride | 0.407 mmol, 0.136 mL | C[Mg]Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-2-{[4-(1-hydroxy-1-methylethyl)phenyl]amino}thiophene-3-carboxamide | FC1=C(C(=CC(=C1)C(C)(C)O)F)C1=CC(=C(S1)NC1=CC=C(C=C1)C(C)(C)O)C(=O)N | C23H24F2N2O3S
